US04259506
A solution of anhydrous dimethylamine (7.5 g) in dry toluene (100 ml) is added rapidly to a solution of 3-isocyanatochromone (13 g) in toluene (50 ml). The temperature of the reaction mixture rapidly rises from 20° to 47° C. and crystallization then takes place. The mixture is stirred for a further 20 minutes until the temperature of the reaction medium drops to about 25° C. After filtration, recrystallization from isopropyl ether (1,000 ml) and drying, 3-(3,3-dimethylureido)-chromone (5.4 g), which melts at 148° C., is obtained.

reactant | dimethylamine | 7.5 g | CNC | C2H7N
reactant | 3-isocyanatochromone | 13 g | N(=C=O)C1=COC2=CC=CC=C2C1=O | C10H5NO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,3-dimethylureido)-chromone | 5.4 g | CN(C(NC1=COC2=CC=CC=C2C1=O)=O)C | C12H12N2O3
